2199-10-07 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2199-10-7**] 02:00 AM
 URINE CULTURE - At [**2199-10-7**] 02:00 AM
   Patient did well overnight with VSS
   Poor access
   PEG tube and OG tube in place.  (unclear how much rehab was using PEG)
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2199-10-7**] 01:07 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-10-7**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 93 (93 - 99) bpm
   BP: 121/67(81) {108/58(70) - 144/67(81)} mmHg
   RR: 18 (15 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     14 mL
                                                                    635 mL
   PO:
             TF:
   IVF:
                                                                     14 mL
                                                                    635 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    600 mL
   Urine:
                                                                    200 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -186 mL
                                                                     35 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.51/41/128/31/9
   Ve: 9.2 L/min
   PaO2 / FiO2: 256
   Physical Examination
   GEN: Middle-aged woman, intubated, withdrawing to painful stimuli
   HEENT: PERRL, sclera anicteric, ET tube in place, MM dry,
   COR: RRR, no M/G/R,
   PULM: coarse BS bilaterally
   ABD: Soft, ND, +BS, PEG in place
   EXT: R AKA, L leg with chronic statis changes, weak PD pulse
   Labs / Radiology
   324 K/uL
   7.7 g/dL
   198 mg/dL
   1.3 mg/dL
   31 mEq/L
   6.6 mEq/L
   65 mg/dL
   102 mEq/L
   141 mEq/L
   24.2 %
   8.9 K/uL
        [image002.jpg] Hemolyzed
                             [**2199-10-7**]  05:00 AM
                             [**2199-10-7**]  05:14 AM
   WBC
   8.9
   Hct
   24.2
   Plt
   324
   Cr
   1.3
   TropT
   0.04
   TCO2
   34
   Glucose
   198
   Other labs: PT / PTT / INR:26.5/37.2/2.6, CK / CKMB /
   Troponin-T:108/4/0.04, ALT / AST:30/43, Alk Phos / T Bili:510/0.3,
   LDH:696 IU/L, Ca++:7.7 mg/dL, Mg++:2.6 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 IMPAIRED PHYSICAL MOBILITY
 PANCREATITIS, CHRONIC
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP,
   LIP, ETC)
   54-year-old woman with a history of ILD, COPD, diastolic CHF (EF 50% in
   [**2-/2199**]), DM2, PVD s/p R AKA, chronic pancreatitis, alcoholic cirrhosis
   who was transferred from OSH with pneumonia and was intubated enroute
   because of desaturation and agitation.
   .
   Plan:
   # Respiratory failure: due to pneumonia vs. CHF exacerbation vs. COPD
   exacerbation. PE is possible but less likely given INR 2.2.
   - most likely etiology is PNA given euvolemia by exam and lack of
   wheezes or elevated peak pressures.
   - continue ventilatory support; wean off vent pending clinical
   improvement
   - fluid balance appears euvolemic, but UOP has fallen this AM,  will
   give 250 cc bolus an reassess.
   - treat underlying etiologies as below
   .
   # Pneumonia: with ?RLL infiltrate and R pleural effusion.
   - empiric broad-spectrum abx with aztreonam, levoflox, for pseudomonas
   coverage and vanco  given pt's frequent hospitalizations (PCN allergy)
   - sputum cx
   - unlikely to need thoracentesis as R pleural effusion is chronic
   - monitor BP; keep MAP > 65
   - continue ventilatory support
   .
   # COPD: unlikely a flare as no apparent wheezing on exam.
   - continue nebs PRN
   - transition to prednisone and taper
   - treat pna as above
   .
   # Acute renal failure: with Cr 1.4 from baseline 0.8-1.0.  Trending
   down to 1.3 today.  Patient may need increased fluid challenge
   - gentle IVF given possible concurrent CHF
   - trend renal labs
   .
   # CHF: CXR with evidence of ILD vs. ?pulmonary edema. BNP > 35,000 at
   OSH and history of worsening orthopnea suggest heart failure.
   - restart metoprolol given hypertension and tachycardia.  Hold Lasix
   and captopril for now.
   .
   # DM2:
   - insulin s.s. with glargine; adjust as needed as patient's on
   stress-dose steroids
   .
   # PVD: s/p R AKA and multiple thrombectomy and graft
   - continue warfarin
   - Start ASA
   - monitor INR
   .
   # Anemia: Hct 24 on admission, baseline low 20s.
   - trend Hct; transfuse for Hct < 21 or active bleeding
   .
   # EtOH cirrhosis:
   - recheck LFTs
   .
   # Chronic pancreatitis: no abd pain on history.
   - monitor clinically
   .
   # GERD:
   - continue PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2199-10-6**] 10:57 PM
   20 Gauge - [**2199-10-6**] 10:57 PM
   18 Gauge - [**2199-10-6**] 10:58 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2199-10-08 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2199-10-7**] 08:47 AM
 EKG - At [**2199-10-7**] 10:00 AM
   - d/c'd propofol
   - Low FS, given maintenance fluids D51/2NS- EKG Obtained
   - Solumedrol changed to prednisone
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2199-10-7**] 12:00 PM
   Ceftazidime - [**2199-10-7**] 09:00 PM
   Vancomycin - [**2199-10-7**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-10-7**] 10:00 AM
   Fentanyl - [**2199-10-7**] 11:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-10-8**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 93 (85 - 102) bpm
   BP: 134/74(89) {115/65(77) - 138/77(91)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,582 mL
                                                                    556 mL
   PO:
             TF:
   IVF:
                                                                  2,582 mL
                                                                    556 mL
   Blood products:
   Total out:
                                                                  1,715 mL
                                                                    610 mL
   Urine:
                                                                  1,715 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    867 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 285 (285 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 115
   RSBI Deferred: RR >35
   PIP: 31 cmH2O
   Plateau: 22 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 92%
   ABG: 7.50/38/152/27/6
   Ve: 8.8 L/min
   PaO2 / FiO2: 507
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   297 K/uL
   8.3 g/dL
   160 mg/dL
   1.2 mg/dL
   27 mEq/L
   8.6 mEq/L
   55 mg/dL
   105 mEq/L
   137 mEq/L
   25.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2199-10-7**]  05:00 AM
                             [**2199-10-7**]  05:14 AM
                             [**2199-10-7**]  01:12 PM
                             [**2199-10-7**]  03:03 PM
                             [**2199-10-7**]  04:00 PM
                             [**2199-10-7**]  10:56 PM
                             [**2199-10-7**]  11:00 PM
                             [**2199-10-8**]  04:34 AM
   WBC
   8.9
   11.7
   Hct
   24.2
   25.3
   25.6
   Plt
   324
   297
   Cr
   1.3
   1.4
   1.2
   TropT
   0.04
   TCO2
   34
   34
   31
   Glucose
   198
   61
   82
   91
   149
   160
   Other labs: PT / PTT / INR:26.5/37.2/2.6, CK / CKMB /
   Troponin-T:108/4/0.04, ALT / AST:30/43, Alk Phos / T Bili:510/0.3,
   Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:696 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ANEMIA, CHRONIC
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 IMPAIRED PHYSICAL MOBILITY
 PANCREATITIS, CHRONIC
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP,
   LIP, ETC)
   54-year-old woman with a history of ILD, COPD, diastolic CHF (EF 50% in
   [**2-/2199**]), DM2, PVD s/p R AKA, chronic pancreatitis, alcoholic cirrhosis
   who was transferred from OSH with pneumonia and was intubated enroute
   because of desaturation and agitation.
   .
   Plan:
   # Respiratory failure: due to pneumonia vs. CHF exacerbation vs. COPD
   exacerbation. PE is possible but less likely given INR 2.2.
   - most likely etiology is PNA given euvolemia by exam and lack of
   wheezes or elevated peak pressures.
   - continue ventilatory support; wean off vent pending clinical
   improvement
   - fluid balance appears euvolemic, but UOP has fallen this AM,  will
   give 250 cc bolus an reassess.
   - treat underlying etiologies as below
   .
   # Pneumonia: with ?RLL infiltrate and R pleural effusion.
   - empiric broad-spectrum abx with aztreonam, levoflox, for pseudomonas
   coverage and vanco  given pt's frequent hospitalizations (PCN allergy)
   - sputum cx
   - unlikely to need thoracentesis as R pleural effusion is chronic
   - monitor BP; keep MAP > 65
   - continue ventilatory support
   .
   # COPD: unlikely a flare as no apparent wheezing on exam.
   - continue nebs PRN
   - transition to prednisone and taper
   - treat pna as above
   .
   # Acute renal failure: with Cr 1.4 from baseline 0.8-1.0.  Trending
   down to 1.3 today.  Patient may need increased fluid challenge
   - gentle IVF given possible concurrent CHF
   - trend renal labs
   .
   # CHF: CXR with evidence of ILD vs. ?pulmonary edema. BNP > 35,000 at
   OSH and history of worsening orthopnea suggest heart failure.
   - restart metoprolol given hypertension and tachycardia.  Hold Lasix
   and captopril for now.
   .
   # DM2:
   - insulin s.s. with glargine; adjust as needed as patient's on
   stress-dose steroids
   .
   # PVD: s/p R AKA and multiple thrombectomy and graft
   - continue warfarin
   - Start ASA
   - monitor INR
   .
   # Anemia: Hct 24 on admission, baseline low 20s.
   - trend Hct; transfuse for Hct < 21 or active bleeding
   .
   # EtOH cirrhosis:
   - recheck LFTs
   .
   # Chronic pancreatitis: no abd pain on history.
   - monitor clinically
   .
   # GERD:
   - continue PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-10-6**] 10:57 PM
   18 Gauge - [**2199-10-6**] 10:58 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-10-08 10:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2199-10-7**] 08:47 AM
 EKG - At [**2199-10-7**] 10:00 AM
   Propofol discontinued
   Changed solumedrol to prednisone
   Hypoglycemia overnight requiring D5W
   Patient unable to provide history: intubated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2199-10-7**] 12:00 PM
   Vancomycin - [**2199-10-8**] 07:39 AM
   Ceftazidime - [**2199-10-8**] 09:54 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2199-10-8**] 07:40 AM
   Midazolam (Versed) - [**2199-10-8**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-10-8**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 89 (85 - 102) bpm
   BP: 139/76(91) {124/69(83) - 139/77(91)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,582 mL
                                                                  1,314 mL
   PO:
             TF:
   IVF:
                                                                  2,582 mL
                                                                  1,209 mL
   Blood products:
   Total out:
                                                                  1,715 mL
                                                                  1,050 mL
   Urine:
                                                                  1,715 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    867 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 286 (270 - 450) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 115
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 92%
   ABG: 7.50/38/152/27/6
   Ve: 10.6 L/min
   PaO2 / FiO2: 507
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Left: Trace, Right AKA
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   297 K/uL
   160 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.6 mEq/L
   55 mg/dL
   105 mEq/L
   137 mEq/L
   25.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2199-10-7**]  05:00 AM
                             [**2199-10-7**]  05:14 AM
                             [**2199-10-7**]  01:12 PM
                             [**2199-10-7**]  03:03 PM
                             [**2199-10-7**]  04:00 PM
                             [**2199-10-7**]  10:56 PM
                             [**2199-10-7**]  11:00 PM
                             [**2199-10-8**]  04:34 AM
                             [**2199-10-8**]  06:30 AM
   WBC
   8.9
   11.7
   Hct
   24.2
   25.3
   25.6
   Plt
   324
   297
   Cr
   1.3
   1.4
   1.2
   TropT
   0.04
   0.03
   TCO2
   34
   34
   31
   Glucose
   198
   61
   82
   91
   149
   160
   Other labs: PT / PTT / INR:25.5/31.9/2.5, CK / CKMB /
   Troponin-T:43/3/0.03, ALT / AST:30/43, Alk Phos / T Bili:510/0.3,
   Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:696 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:  Continues bronchodilators, prednisone.
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP):  Secretions clear,
   thick.  Not requiring frequent suctioning.  Continue current
   antibiotics.
 H/O INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP,
   LIP, ETC):  Not clear this is an exacerbation of the underlying ILD.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC:  Component of CHF
   now contributing to inability to wean from mechanical ventilation. Plan
   for IV lasix this morning.  Goal for 1 to 1.5 L negative.  Restart
   metoprolol.
 ANEMIA, CHRONIC: Stable hct. GAS.
 DIABETES MELLITUS (DM), TYPE II:  RISS. Holding captopril given
   elevated Cr.
 RENAL INSUFFICIENCY:  Cr slowly trending down.  [**Month (only) 60**] improve with
   diuresis.
 LEUKOCYTOSIS:  Probaly related to steroids. Will check differential,
   follow serial CBC's and follow clinically.
 PVD:  Therapeutic on coumadin.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2199-10-6**] 10:57 PM
   18 Gauge - [**2199-10-6**] 10:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2199-10-09 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2199-10-8**] 05:06 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2199-10-8**] 05:41 PM
 EKG - At [**2199-10-8**] 10:15 PM
   - Self extubated at 5pm while on bolus sedation with Ativan and Haldol.
   Emergently re-intubated by anaesthesia as sats went to 60's. Placed on
   Versed GTT with boluses prn of haldol.
   - given furosemide x1 in and and again in evening for diuresis
   -Tube feeds ordered per nutrition recs
   - Metoprolol 12.5 [**Hospital1 **] started
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2199-10-7**] 12:00 PM
   Vancomycin - [**2199-10-8**] 07:39 AM
   Ceftazidime - [**2199-10-8**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2199-10-8**] 07:40 AM
   Haloperidol (Haldol) - [**2199-10-8**] 12:00 PM
   Lorazepam (Ativan) - [**2199-10-8**] 04:46 PM
   Furosemide (Lasix) - [**2199-10-8**] 06:52 PM
   Midazolam (Versed) - [**2199-10-8**] 08:00 PM
   Morphine Sulfate - [**2199-10-8**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-10-9**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 80 (76 - 109) bpm
   BP: 135/63(82) {119/62(79) - 148/83(99)} mmHg
   RR: 23 (18 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,148 mL
                                                                    438 mL
   PO:
             TF:
                                                                    182 mL
                                                                    214 mL
   IVF:
                                                                  1,611 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    345 mL
   Urine:
                                                                  2,630 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -482 mL
                                                                     93 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 115 (115 - 297) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 32 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 94%
   ABG: 7.48/40/175/27/6
   Ve: 10.1 L/min
   PaO2 / FiO2: 583
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   8.2 g/dL
   140 mg/dL
   1.1 mg/dL
   27 mEq/L
   8.9 mEq/L
   43 mg/dL
   110 mEq/L
   141 mEq/L
   25.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2199-10-7**]  01:12 PM
                             [**2199-10-7**]  03:03 PM
                             [**2199-10-7**]  04:00 PM
                             [**2199-10-7**]  10:56 PM
                             [**2199-10-7**]  11:00 PM
                             [**2199-10-8**]  04:34 AM
                             [**2199-10-8**]  06:30 AM
                             [**2199-10-8**]  04:25 PM
                             [**2199-10-8**]  08:42 PM
                             [**2199-10-9**]  04:00 AM
   WBC
   11.7
   9.0
   Hct
   25.3
   25.6
   25.0
   Plt
   297
   281
   Cr
   1.4
   1.2
   1.1
   1.1
   TropT
   0.03
   TCO2
   34
   31
   31
   Glucose
   61
   82
   91
   149
   160
   153
   140
   Other labs: PT / PTT / INR:25.5/31.9/2.5, CK / CKMB /
   Troponin-T:43/3/0.03, ALT / AST:30/43, Alk Phos / T Bili:510/0.3,
   Differential-Neuts:85.4 %, Lymph:7.2 %, Mono:6.0 %, Eos:1.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:696 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ANEMIA, CHRONIC
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 IMPAIRED PHYSICAL MOBILITY
 PANCREATITIS, CHRONIC
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP,
   LIP, ETC)
   54-year-old woman with a history of ILD, COPD, diastolic CHF (EF 50% in
   [**2-/2199**]), DM2, PVD s/p R AKA, chronic pancreatitis, alcoholic cirrhosis
   who was transferred from OSH with pneumonia and was intubated enroute
   because of desaturation and agitation.
   .
   Plan:
   # Respiratory failure: most likely etiology is PNA given euvolemia by
   exam and lack of wheezes or elevated peak pressures.
   - wean off vent pending clinical improvement
   - RSBI high today, consider re-assessing and extubation tomorrow
   - Consider A-line today
   - fluid balance appears euvolemic, good UOP, stop IVF when TF start
   - treat underlying etiologies as below
   .
   # Pneumonia: with RLL infiltrate and R pleural effusion.
   - empiric broad-spectrum abx with aztreonam, levoflox, for pseudomonas
   coverage and vanco  given pt's frequent hospitalizations (PCN allergy)
   - sputum cx with GNR, f/u sensitivities
   - monitor BP; keep MAP > 65
   .
   # COPD: unlikely a flare as no apparent wheezing on exam.
   - continue nebs PRN
   - Continue prednisone and taper
   - treat pna as above
   .
   # Acute renal failure: with Cr 1.4 from baseline 0.8-1.0.  Trending
   down to 1.2 today.
   - gentle IVF given possible concurrent CHF
   - trend renal labs
   .
   # CHF: CXR with evidence of ILD vs. ?pulmonary edema. BNP > 35,000 at
   OSH and history of worsening orthopnea suggest heart failure.
   - restart metoprolol given hypertension and tachycardia.  Hold Lasix
   and captopril for now.
   .
   # DM2:  Patient with low FSBG.  Started on D5.
   - Start TF today for nutrition
   - Consider reducing glargine
   - insulin s.s. with glargine; adjust as needed as patient's on
   stress-dose steroids
   .
   # PVD: s/p R AKA and multiple thrombectomy and graft
   - continue warfarin
   - Continue ASA
   - monitor INR
   .
   # Anemia: Hct 24 on admission, baseline low 20s.
   - trend Hct; transfuse for Hct < 21 or active bleeding
   .
   # EtOH cirrhosis:
   - recheck LFTs
   .
   # Chronic pancreatitis: no abd pain on history.
   - Viokase when TF started
   - monitor clinically
   .
   # GERD:
   - continue PPI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2199-10-9**] 12:43 AM 35.[**Telephone/Fax (3) 6355**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-10-6**] 10:58 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2199-10-09 10:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2199-10-8**] 05:41 PM;
   airway managed with ambu and anesthesia stat paged for emergent
   reintubation
Restarted on versed drip
 EKG - At [**2199-10-8**] 10:15 PM
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2199-10-7**] 12:00 PM
   Vancomycin - [**2199-10-8**] 07:39 AM
   Ceftazidime - [**2199-10-8**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2199-10-8**] 12:00 PM
   Lorazepam (Ativan) - [**2199-10-8**] 04:46 PM
   Furosemide (Lasix) - [**2199-10-8**] 06:52 PM
   Midazolam (Versed) - [**2199-10-8**] 08:00 PM
   Morphine Sulfate - [**2199-10-9**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-10-9**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 81 (76 - 94) bpm
   BP: 127/60(77) {119/60(77) - 142/77(93)} mmHg
   RR: 23 (18 - 36) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,148 mL
                                                                    610 mL
   PO:
             TF:
                                                                    182 mL
                                                                    327 mL
   IVF:
                                                                  1,611 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    495 mL
   Urine:
                                                                  2,630 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -482 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 489 (115 - 489) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 92%
   ABG: 7.48/40/175/27/6
   Ve: 10.1 L/min
   PaO2 / FiO2: 583
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   281 K/uL
   140 mg/dL
   1.1 mg/dL
   27 mEq/L
   8.9 mEq/L
   43 mg/dL
   110 mEq/L
   141 mEq/L
   25.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2199-10-7**]  01:12 PM
                             [**2199-10-7**]  03:03 PM
                             [**2199-10-7**]  04:00 PM
                             [**2199-10-7**]  10:56 PM
                             [**2199-10-7**]  11:00 PM
                             [**2199-10-8**]  04:34 AM
                             [**2199-10-8**]  06:30 AM
                             [**2199-10-8**]  04:25 PM
                             [**2199-10-8**]  08:42 PM
                             [**2199-10-9**]  04:00 AM
   WBC
   11.7
   9.0
   Hct
   25.3
   25.6
   25.0
   Plt
   297
   281
   Cr
   1.4
   1.2
   1.1
   1.1
   TropT
   0.03
   TCO2
   34
   31
   31
   Glucose
   61
   82
   91
   149
   160
   153
   140
   Other labs: PT / PTT / INR:30.3/34.3/3.1, CK / CKMB /
   Troponin-T:43/3/0.03, ALT / AST:30/43, Alk Phos / T Bili:510/0.3,
   Differential-Neuts:85.4 %, Lymph:7.2 %, Mono:6.0 %, Eos:1.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:696 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ACUTE ON CHRONIC RESPIRATORY FAILURE: Reintubated last night
   emergently after she pulled the tube inadvertantly.  CXR today with
   worsening bilateral interstitial/alveolar infiltrates which could
   represent fluid (noncardiogenic vs. cardiogenic) vs. exacerbation of
   underlying ILD.  Feel infection more likely, need to get better rate
   control and BP contol given known underlying diastolic dysfunction.
   Try diuresis again today.  Continue prednisone for COPD exacerbation.
   Bronchodilators.
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP): Gram stain shows
   GNRs, and coag pos staph.  Awaiting final ID/sensitivities. Continue
   vanco/levo/ceftaz.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION: As above.
 H/O INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP,
   LIP, ETC)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: Titrating up on her
   beta blocker.
 ANEMIA, CHRONIC:  Remains stable.
 DIABETES MELLITUS (DM), TYPE II: On glargine and RISS, hypeglycemic
   albeit also on steroids.
 PVD: On coumadin and ASA, INR climbing which may be related to being
   on broad spectrum antibiotics.  Will decrease coumadin dose and follow
   daily PT.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2199-10-9**] 06:42 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2199-10-6**] 10:58 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2199-10-10 07:58:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   24 Hour Events:
 PICC LINE - START [**2199-10-9**] 12:37 PM
 ARTERIAL LINE - START [**2199-10-9**] 02:36 PM
   - Metoprolol titrated up to 37.5 TID to control rate and pressure
   - Vanc dose and levoflox dose increased given improved renal function
   - Switched to fentanyl/versed gtt for sedation
   - Prednisone decreased to 20 daily
   - Coumadin decreased to 4 daily
   - A-line and PICC placed
   - BNP remains [**Numeric Identifier 6376**]
   - Echo ordered for today
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2199-10-7**] 12:00 PM
   Vancomycin - [**2199-10-9**] 08:00 PM
   Ceftazidime - [**2199-10-9**] 10:00 PM
   Levofloxacin - [**2199-10-10**] 06:00 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2199-10-9**] 08:21 AM
   Fentanyl - [**2199-10-9**] 06:15 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt states she is having stomach pain but otherwise
   is unable to give ROS [**1-5**] sedation
   Flowsheet Data as of  [**2199-10-10**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 70 (68 - 84) bpm
   BP: 132/56(79) {132/56(79) - 156/69(98)} mmHg
   RR: 20 (18 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,164 mL
                                                                    829 mL
   PO:
             TF:
                                                                    676 mL
                                                                    249 mL
   IVF:
                                                                  1,239 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    835 mL
   Urine:
                                                                  1,145 mL
                                                                    815 mL
   NG:
                                                                     50 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    969 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 423 (423 - 489) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 97%
   ABG: ///27/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   occassional bilat, diffuse, Diminished: at left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   265 K/uL
   7.8 g/dL
   162 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   37 mg/dL
   112 mEq/L
   144 mEq/L
   24.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2199-10-7**]  04:00 PM
                             [**2199-10-7**]  10:56 PM
                             [**2199-10-7**]  11:00 PM
                             [**2199-10-8**]  04:34 AM
                             [**2199-10-8**]  06:30 AM
                             [**2199-10-8**]  04:25 PM
                             [**2199-10-8**]  08:42 PM
                             [**2199-10-9**]  04:00 AM
                             [**2199-10-9**]  06:04 PM
                             [**2199-10-10**]  04:09 AM
   WBC
   11.7
   9.0
   10.0
   Hct
   25.6
   25.0
   24.1
   Plt
   297
   281
   265
   Cr
   1.2
   1.1
   1.1
   1.0
   0.9
   TropT
   0.03
   TCO2
   31
   31
   Glucose
   91
   149
   160
   153
   140
   147
   162
   Other labs: PT / PTT / INR:30.3/32.9/3.1, CK / CKMB /
   Troponin-T:43/3/0.03, ALT / AST:30/43, Alk Phos / T Bili:510/0.3,
   Differential-Neuts:85.4 %, Lymph:7.2 %, Mono:6.0 %, Eos:1.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.4 g/dL, LDH:696 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ANEMIA, CHRONIC
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 IMPAIRED PHYSICAL MOBILITY
 PANCREATITIS, CHRONIC
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP,
   LIP, ETC)
   .
   54-year-old woman with a history of ILD, COPD, diastolic CHF (EF 50% in
   [**2-/2199**]), DM2, PVD s/p R AKA, chronic pancreatitis, alcoholic cirrhosis
   who was transferred from OSH with pneumonia and was intubated enroute
   because of desaturation and agitation.
   .
   Plan:
   # Respiratory failure: most likely etiology is PNA and underlying ILD
   given euvolemia by exam and lack of wheezes or elevated peak pressures.
   A line and PICC placed yesterday.
   - fluid balance appears euvolemic, good UOP
   - treat underlying etiologies as below
   .
   # Pneumonia: with RLL infiltrate and R pleural effusion.
   - Continue ceftaz, levoflox for pseudomonas coverage and vanc for Staph
   in cx (PCN allergy)
   - sputum cx with GNR and sparse growth of Coag + Staph, f/u
   sensitivities
   - monitor BP; keep MAP > 65
   .
   # COPD: unlikely a flare as no apparent wheezing on exam.
   - continue nebs PRN
   - Continue prednisone (20 currently) and taper
   - treat pna as above
   .
   # Acute renal failure: with Cr now back to baseline at 0.9.
   - no IVF needed at this time
   - trend renal labs
   .
   # CHF: CXR with evidence of ILD vs. ?pulmonary edema. BNP > 35,000 at
   OSH. Appears  euvolemic today
   - continue metoprolol now at 37.5 TID
   - Lasix PRN for diuresis
   - TTE today
   .
   # DM2:  Patient with better FSBG after starting TF.
   - Continue TF
   - insulin s.s. with glargine; adjust as needed while on steroids
   .
   # PVD: s/p R AKA and multiple thrombectomy and graft
   - continue warfarin- INR today 3.1
   - Continue ASA
   - monitor INR
   .
   # Anemia: Hct 24 on admission and again 24.1 today, baseline low 20s.
   - trend Hct; transfuse for Hct < 21 or active bleeding
   .
   # EtOH cirrhosis: Currently asymptomatic without ascites
   - recheck LFTs today
   .
   # Chronic pancreatitis: Pt currently c/o stomach pain.
   -Incr Fentanyl gtt
   - continue Viokase with TF, monitor TF residuals closely
   - monitor clinically
   .
   # GERD:
   - continue PPI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2199-10-10**] 06:20 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2199-10-6**] 10:58 PM
   PICC Line - [**2199-10-9**] 12:37 PM
   Arterial Line - [**2199-10-9**] 02:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2199-10-12 08:32:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   24 Hour Events:
 THORACENTESIS - At [**2199-10-11**] 05:19 PM
   - Given 4 units FFP prior to [**Female First Name (un) **]. INR went from 2.9 to 1.9.
   -[**Female First Name (un) **] done by IP around 4p. Removed 1.2 L- Light's criteria TP/TP=
   .32, LDH/LDH= .32 so transudate
   -Slight bleeding from [**Female First Name (un) **] site at 7am. Heparin held until am.
   -HCT after [**Female First Name (un) **] 21.9. Transfused 1 u PRBCS and ordered rpt CXR- not
   too much change. Will rpt CXR in am
   -Gave furosemide 100IVx1 for diuresis in am with good response. Ordered
   again at 11pm.
   -pm vanco level still 44.1 from 45.9
   - Started ipratropium nebs
   - On PS 8/5 and doing well. RISB and SBT in am. If looks good, will
   extubate in the am.
   -FS elevated in pm to 300's. on ISS
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2199-10-10**] 06:00 AM
   Vancomycin - [**2199-10-10**] 08:22 AM
   Ceftazidime - [**2199-10-10**] 10:20 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2199-10-11**] 11:56 PM
   Pantoprazole (Protonix) - [**2199-10-12**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2199-10-12**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.8
   HR: 85 (76 - 86) bpm
   BP: 147/71(98) {111/47(67) - 157/71(98)} mmHg
   RR: 33 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
           Total In:
                                                                  3,430 mL
                                                                    544 mL
   PO:
           TF:
                                                                  1,087 mL
                                                                     49 mL
   IVF:
                                                                    709 mL
                                                                    215 mL
   Blood products:
                                                                  1,205 mL
                                                                    280 mL
   Total out:
                                                                  2,740 mL
                                                                  1,560 mL
   Urine:
                                                                  2,725 mL
                                                                  1,560 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                    690 mL
                                                                 -1,016 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 386 (330 - 430) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 66
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.45/43/84.[**Numeric Identifier 1625**]/31/4
   Ve: 10.9 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, R AKA
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   194 K/uL
   8.4 g/dL
   83 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   32 mg/dL
   111 mEq/L
   147 mEq/L
   26.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2199-10-9**]  06:04 PM
                             [**2199-10-10**]  04:09 AM
                             [**2199-10-10**]  10:25 AM
                             [**2199-10-11**]  05:05 AM
                             [**2199-10-11**]  11:46 AM
                             [**2199-10-11**]  06:00 PM
                             [**2199-10-11**]  08:00 PM
                             [**2199-10-11**]  10:00 PM
                             [**2199-10-12**]  04:40 AM
                             [**2199-10-12**]  07:30 AM
   WBC
   10.0
   16.9
   15.2
   12.3
   Hct
   24.1
   23.8
   21.2
   26.2
   Plt
   265
   236
   211
   194
   Cr
   1.0
   0.9
   1.0
   1.1
   TCO2
   28
   29
   31
   Glucose
   147
   162
   130
   144
   196
   363
   232
   83
   Other labs: PT / PTT / INR:19.3/28.3/1.7, CK / CKMB /
   Troponin-T:43/3/0.03, ALT / AST:17/17, Alk Phos / T Bili:263/0.2,
   Amylase / Lipase:[**7-12**], Differential-Neuts:85.4 %, Lymph:7.2 %, Mono:6.0
   %, Eos:1.4 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:299 IU/L,
   Ca++:6.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 CORONARY ARTERY BYPASS GRAFT (CABG)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ANEMIA, CHRONIC
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 IMPAIRED PHYSICAL MOBILITY
 PANCREATITIS, CHRONIC
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP,
   LIP, ETC)
   54-year-old woman with a history of ILD, COPD, diastolic CHF (EF 50% in
   [**2-/2199**]), DM2, PVD s/p R AKA, chronic pancreatitis, alcoholic cirrhosis
   who was transferred from OSH with pneumonia and was intubated enroute
   because of desaturation and agitation.
   .
   Plan:
   # Respiratory failure: Thoracentesis after 4 u FFP  yesterday with IP
   resulted in 1.2L taken off. Pt briefly bleeding after procedure but
   pressure held and bleeding stopped. Gave 1 u PRBCs.  Will re chk HCT
   this afternoon and if any sign [**Last Name (LF) **], [**First Name3 (LF) 178**] [**First Name3 (LF) 6409**] CXR.
   - extubation successful this am. Will monitor closely
   .
   # Pneumonia: with RLL infiltrate and R pleural effusion.  MRSA on
   sputum cx of [**2199-10-7**].
   - Continue vanc for MRSA in cx (PCN allergy)
   - f/u pleural fluid cx
   - monitor BP; keep MAP > 65
   .
   # Acute on chronic CHF: Echo with low EF and Chest CT with pulmonary
   edema. BNP > 35,000. Appears  euvolemic today
   - continue metoprolol now at 37.5 TID
   - Lasix PRN for diuresis-  not needed this am
   - goal of even to -500cc for the day on I
   .
   # Hypernatremia- to 147 today. Will give D5W at 50cc/hr x 400cc today
   and [**Date Range 6409**] pm lytes.
   .
   # ILD: Difficult to determine if this is a flare as she is actively
   infected
   - continue nebs PRN
   - Continue prednisone (20 currently) and taper tomorrow if continues to
   be stable from respiratory standpoint
   - treat pna as above
   .
   # Acute renal failure: with Cr now rising to 1.1 from 0.9 likely [**1-5**]
   diuresis.
   - no IVF at this time
   - trend renal labs
   .
   # DM2:  Patient with FSBG into 200
s overnight.
   - Restart  TF this afternoon
   - insulin s.s. with glargine; adjust as needed while on steroids
   .
   # PVD: s/p R AKA and multiple thrombectomy and graft
   - heparin gtt to be resumed today (no coumadin while in ICU)
   - Continue ASA
   - monitor coags
   .
   # Anemia: Hct bumped well to transfusion overnight to 26 from 21.
   -          trend Hct; transfuse for Hct < 21 or active bleeding
   -          If Hct [**Month/Day (2) **] on [**Last Name (LF) 6409**], [**First Name3 (LF) 178**] rpt CXR
   .
   # EtOH cirrhosis: Currently asymptomatic without ascites
   - recheck LFTs daily
   .
   # Chronic pancreatitis: No stomach pain today
   - continue Viokase with TF, monitor TF residuals closely
   - monitor clinically
   .
   # GERD:
   - continue PPI
   ICU Care
   Nutrition: Will restart TF s/p extubation today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2199-10-9**] 12:37 PM
   Arterial Line - [**2199-10-9**] 02:36 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt- will restart today)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2199-10-13 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient extubated without difficulties
   - Vanc to be re-dosed with each level
   - lasix diuresis tolerated well
   - Free water deficit was 1.3 L, 800 cc replased with near normalization
   of Na
   - TPA to line
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2199-10-10**] 08:22 AM
   Ceftazidime - [**2199-10-10**] 10:20 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-10-12**] 08:06 AM
   Dextrose 50% - [**2199-10-12**] 11:50 AM
   Midazolam (Versed) - [**2199-10-12**] 06:13 PM
   Fentanyl - [**2199-10-13**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-10-13**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36
C (96.8
   HR: 71 (68 - 91) bpm
   BP: 159/80(111) {136/62(85) - 169/83(117)} mmHg
   RR: 18 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,704 mL
                                                                     56 mL
   PO:
             TF:
                                                                     49 mL
   IVF:
                                                                  1,285 mL
                                                                     56 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  2,575 mL
                                                                    365 mL
   Urine:
                                                                  2,575 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -871 mL
                                                                   -309 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (340 - 340) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.45/43/84.[**Numeric Identifier 1625**]/27/4
   Ve: 12 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, R AKA
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   201 K/uL
   9.3 g/dL
   131 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.4 mEq/L
   27 mg/dL
   108 mEq/L
   142 mEq/L
   28.9 %
   13.7 K/uL
        [image002.jpg]
                             [**2199-10-10**]  10:25 AM
                             [**2199-10-11**]  05:05 AM
                             [**2199-10-11**]  11:46 AM
                             [**2199-10-11**]  06:00 PM
                             [**2199-10-11**]  08:00 PM
                             [**2199-10-11**]  10:00 PM
                             [**2199-10-12**]  04:40 AM
                             [**2199-10-12**]  07:30 AM
                             [**2199-10-12**]  04:41 PM
                             [**2199-10-13**]  04:47 AM
   WBC
   16.9
   15.2
   12.3
   13.8
   13.7
   Hct
   23.8
   21.2
   26.2
   27.5
   28.9
   Plt
   [**Telephone/Fax (3) 6428**]05
   201
   Cr
   1.0
   1.1
   1.0
   0.8
   TCO2
   28
   29
   31
   Glucose
   130
   144
   196
   363
   232
   83
   64
   131
   Other labs: PT / PTT / INR:18.2/120.1/1.7, CK / CKMB /
   Troponin-T:43/3/0.03, ALT / AST:17/17, Alk Phos / T Bili:263/0.2,
   Amylase / Lipase:[**7-12**], Differential-Neuts:85.4 %, Lymph:7.2 %, Mono:6.0
   %, Eos:1.4 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:299 IU/L,
   Ca++:6.4 mg/dL, Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   54-year-old woman with a history of ILD, COPD, diastolic CHF (EF 50% in
   [**2-/2199**]), DM2, PVD s/p R AKA, chronic pancreatitis, alcoholic cirrhosis
   who was transferred from OSH with pneumonia and was intubated enroute
   because of desaturation and agitation.
   .
   Plan:
   # Respiratory failure: Thoracentesis after 4 u FFP  yesterday with IP
   resulted in 1.2L taken off. Pt briefly bleeding after procedure but
   pressure held and bleeding stopped. Gave 1 u PRBCs.  Will re chk HCT
   this afternoon and if any sign [**Last Name (LF) **], [**First Name3 (LF) 178**] [**First Name3 (LF) 6409**] CXR.
   - extubation successful this am. Will monitor closely
   .
   # MRSA Pneumonia: with RLL infiltrate and R pleural effusion.  MRSA on
   sputum cx of [**2199-10-7**].
   - Continue vanc for MRSA in cx (PCN allergy)
   - f/u pleural fluid cx
   - monitor BP; keep MAP > 65
   .
 PNEUMONIA, MRSA
   -          MRSA on culture
   -          Thoracentesis adequately excluded infected parapneumonic
   effusion
   -          On vancomycin.  Dosing by level.
   # Acute on chronic CHF: Echo with low EF and Chest CT with pulmonary
   edema. BNP > 35,000. Appears  euvolemic today
   - continue metoprolol now at 37.5 TID
   - Lasix PRN for diuresis-  not needed this am
   - goal of even to -500cc for the day on I
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   -          fluid goal today depends on post-extubation status
   .
   # CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -           on bronchodilators
   -           add back in Spiriva (and d/c atrovent) if tolerates
   extubation
   -
   # Hypernatremia- to 147 today. Will give D5W at 50cc/hr x 400cc today
   and [**Date Range 6409**] pm lytes.
   .
   # ILD: Difficult to determine if this is a flare as she is actively
   infected
   - continue nebs PRN
   - Continue prednisone (20 currently) and taper tomorrow if continues to
   be stable from respiratory standpoint
 .H/O INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP,
   LIP, ETC)
   -          maintain present doses of steroids.  If unable to wean from
   ventilator after longer ABX course may consider higher-dose steroids.
   If tolerates extubation then begin weaning toward zero.
   - treat pna as above
   .
   # Acute renal failure: with Cr now rising to 1.1 from 0.9 likely [**1-5**]
   diuresis.
   - no IVF at this time
   - trend renal labs
   .
   # DM2:  Patient with FSBG into 200
s overnight.
   - Restart  TF this afternoon
   - insulin s.s. with glargine; adjust as needed while on steroids
   .
   # PVD: s/p R AKA and multiple thrombectomy and graft
   - heparin gtt to be resumed today (no coumadin while in ICU)
   - Continue ASA
   - monitor coags
   .
   # Anemia: Hct bumped well to transfusion overnight to 26 from 21.
   -          trend Hct; transfuse for Hct < 21 or active bleeding
   -          If Hct [**Month/Day (2) **] on [**Last Name (LF) 6409**], [**First Name3 (LF) 178**] rpt CXR
   .
   # EtOH cirrhosis: Currently asymptomatic without ascites
   - recheck LFTs daily
   .
   # Chronic pancreatitis: No stomach pain today
   - continue Viokase with TF, monitor TF residuals closely
   - monitor clinically
   .
   # GERD:
   - continue PPI
   # CORONARY ARTERY BYPASS GRAFT (CABG)
   -           no acute intervention
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2199-10-9**] 12:37 PM
   Arterial Line - [**2199-10-9**] 02:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-10-14 07:51:00 Physician Resident Progress Note
Chief Complaint: hypotension s/p respiratory failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2199-10-13**] 03:40 PM
 PICC LINE - STOP [**2199-10-13**] 04:09 PM
 INVASIVE VENTILATION - STOP [**2199-10-13**] 04:09 PM
 PICC LINE - START [**2199-10-13**] 07:40 PM
   Pt was called out of MICU last night and readmitted again with
   hypotension to SBP 80's s/p 250cc bolus. Pt doing well on the floor,
   sating 99% on 4L NC
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2199-10-13**] 01:00 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Fentanyl - [**2199-10-13**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-10-14**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.5
   HR: 80 (65 - 80) bpm
   BP: 106/50(64) {79/43(56) - 117/61(75)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    830 mL
                                                                    381 mL
   PO:
                                                                    340 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    490 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                    805 mL
                                                                     50 mL
   Urine:
                                                                    805 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     25 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: right base)
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG tube in place
   Extremities: Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   212 K/uL
   8.3 g/dL
   266 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.2 mEq/L
   36 mg/dL
   106 mEq/L
   140 mEq/L
   25.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2199-10-11**]  11:46 AM
                             [**2199-10-11**]  06:00 PM
                             [**2199-10-11**]  08:00 PM
                             [**2199-10-11**]  10:00 PM
                             [**2199-10-12**]  04:40 AM
                             [**2199-10-12**]  07:30 AM
                             [**2199-10-12**]  04:41 PM
                             [**2199-10-13**]  04:47 AM
                             [**2199-10-13**]  10:42 PM
                            [**2199-10-14**]  05:00 AM
   WBC
   15.2
   12.3
   13.8
   13.7
   10.9
   9.5
   Hct
   21.2
   26.2
   27.5
   28.9
   23.4
   25.7
   Plt
   [**Telephone/Fax (2) 6447**]
   Cr
   1.1
   1.0
   0.8
   0.9
   1.0
   TropT
   0.02
   TCO2
   29
   31
   Glucose
   196
   363
   232
   83
   64
   131
   302
   266
   Other labs: PT / PTT / INR:19.7/55.1/1.8, CK / CKMB /
   Troponin-T:54/6/0.02, ALT / AST:17/17, Alk Phos / T Bili:263/0.2,
   Amylase / Lipase:[**7-12**], Differential-Neuts:90.2 %, Lymph:4.9 %, Mono:3.3
   %, Eos:1.6 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:299 IU/L,
   Ca++:6.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 CORONARY ARTERY BYPASS GRAFT (CABG)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ANEMIA, CHRONIC
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 IMPAIRED PHYSICAL MOBILITY
 PANCREATITIS, CHRONIC
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP,
   LIP, ETC)
   Assessment:
   Ms. [**Known lastname 3317**] is a 54-year-old woman with a history of ILD, COPD, CHF,
   DM2, PVD s/p R AKA, chronic pancreatitis, alcoholic cirrhosis who was
   transferred from OSH, recently in ICU for MRSA pneumonia discovered to
   have C.diff, how readmitted for hypotension.
   Plan:
   .
   #hypotension: Pt asymptomatic, mentating well. Currently BP 109/58.
   Etiologies include hypovolemia secondary to recent diuresis and
   diarrhea. Yesterday, pt was calculated to have a free water deficit of
   1.3L. Pt's BP went from 70's to 90's after 250cc IVF. Other etiologies
   include bleeding, but no obvious signs, cardiac event such as MI,
   worsening CHF, however pt without EKG changes, CP or SOB. Other
   possibilities include PE, however, pt currently anti-coagulated. Sepsis
   is a possibility, especially given hypothermia. Possibilities include
   gram negative infection. Pt recently dx with C.diff and flagyl started
   today. Adrenal insufficiency also a possibility, pt's prednisone
   decreased from 20 to 10mg today.
   -infectious w/u, bcx, ucx
   -cxr
   -hold anti-htn
   -[**Doctor Last Name 419**] IVF given CHF
   -orthostatics
   -increase prednisone to 40mg daily
   -Vanco/flagyl for MRSA pna, c.diff, will consider broadening if
   clinical condition worsens.
   -romi.
   .
   # Respiratory failure: Currently much improved. PT s/p intubation and
   now without symptoms on 4L NC. Initially thought to be due to pneumonia
   vs. CHF exacerbation vs. COPD exacerbation. However, pt discovered to
   have MRSA PNA and CHF. Pt given abx and diuresed. Pt s/p recent
   thoracentesis, transudate.
   -continue vanco
   -rpt cxr
   -nebs
   -wean 02 as tolerated
   -consider diuresis if/when BP allows.
   .
   # COPD: no wheezing on exam. 02 requirement currently stable.
   -nebs prn
   -vanco for PNA
   -prednisone
   .
   # Acute renal failure: with Cr 1.4 from baseline 0.8-1.0. Likely from
   recent furosemide given at OSH vs. dehydration. Currently resolved.
   - I/O's
   -trend Cr
   .
   # CHF: CXR with evidence of ILD vs. ?pulmonary edema. BNP > 35,000 at
   OSH and history of worsening orthopnea suggest heart failure.
   - prn furosemide,
   -metoprolol, ACEI restarted.
   .
   # DM2:
   - insulin s.s. with glargine; adjust as needed as patient's on
   stress-dose steroids
   -FS QID, DM diet.
   .
   # PVD: s/p R AKA and multiple thrombectomy and graft
   - continue warfarin
   - monitor INR
   .
   # Anemia: Hct 24 on admission, baseline low 20s. Currently 28.9
   - trend Hct; transfuse for Hct < 21 or active bleeding
   .
   # EtOH cirrhosis:
   - monitor LFT's.
   .
   # Chronic pancreatitis: normal lipase
   - monitor clinically
   .
   # GERD:
   - continue PPI
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2199-10-13**] 07:40 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: with patient, [**Name (NI) 125**] [**Name (NI) 3317**] (Husband)-
   ([**Telephone/Fax (1) 6318**]
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility pending above

2199-10-14 12:34:00 Physician Attending Progress Note
Chief Complaint: Hypotension, pneumonia, ILD, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient has been hemodynamically stable after 1-2 liters of fluid.
   Urine output has been good. O2 sat 98% on 3L supplemental oxygen.
   Continues on anti-coagulation for hx of DVT and PE.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2199-10-13**] 03:40 PM
 PICC LINE - STOP [**2199-10-13**] 04:09 PM
 INVASIVE VENTILATION - STOP [**2199-10-13**] 04:09 PM
 PICC LINE - START [**2199-10-13**] 07:40 PM
   History obtained from Patient
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2199-10-13**] 01:00 PM
   Metronidazole - [**2199-10-14**] 08:14 AM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-10-14**] 08:15 AM
   Other medications:
   [**Last Name (LF) 1267**], [**First Name3 (LF) 369**], lidocaine patch, atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-10-14**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.4
   HR: 80 (65 - 80) bpm
   BP: 106/50(64) {79/43(56) - 117/61(75)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    830 mL
                                                                    708 mL
   PO:
                                                                    340 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    490 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                    805 mL
                                                                    150 mL
   Urine:
                                                                    805 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     25 mL
                                                                    558 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Rales right mid-axillary
   line, No(t) Bronchial: , Wheezes : Prolonged expiratory phase,
   Diminished: Very diminished breath sounds, No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Musculoskeletal: Muscle wasting, Unable to stand, leg prosthesis not
   available.
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   212 K/uL
   266 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.2 mEq/L
   36 mg/dL
   106 mEq/L
   140 mEq/L
   25.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2199-10-11**]  11:46 AM
                             [**2199-10-11**]  06:00 PM
                             [**2199-10-11**]  08:00 PM
                             [**2199-10-11**]  10:00 PM
                             [**2199-10-12**]  04:40 AM
                             [**2199-10-12**]  07:30 AM
                             [**2199-10-12**]  04:41 PM
                             [**2199-10-13**]  04:47 AM
                             [**2199-10-13**]  10:42 PM
                            [**2199-10-14**]  05:00 AM
   WBC
   15.2
   12.3
   13.8
   13.7
   10.9
   9.5
   Hct
   21.2
   26.2
   27.5
   28.9
   23.4
   25.7
   Plt
   [**Telephone/Fax (2) 6447**]
   Cr
   1.1
   1.0
   0.8
   0.9
   1.0
   TropT
   0.02
   TCO2
   29
   31
   Glucose
   196
   363
   232
   83
   64
   131
   302
   266
   Other labs: PT / PTT / INR:19.7/55.1/1.8, CK / CKMB /
   Troponin-T:54/6/0.02, ALT / AST:17/17, Alk Phos / T Bili:263/0.2,
   Amylase / Lipase:[**7-12**], Differential-Neuts:90.2 %, Lymph:4.9 %, Mono:3.3
   %, Eos:1.6 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:299 IU/L,
   Ca++:6.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 CORONARY ARTERY BYPASS GRAFT (CABG)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ANEMIA, CHRONIC
 DIABETES MELLITUS (DM), TYPE II
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 IMPAIRED PHYSICAL MOBILITY
 PANCREATITIS, CHRONIC
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP,
   LIP, ETC)
   HYPOCALCEMIA
   Blood pressure has been stable after mild volume resuscitation. Urine
   output good. Patient comfortable. Patient was asymptomatic at the time
   that she had a low blood pressure last night. [**Month (only) 60**] have been related to
   one of her anti-hypertensives.
   Oxygenation excellent. No dyspnea.
   Completing antibiotics for pneumonia.
   Hct stable. Not at transfusion threshold.
   Serum calcium low, but with low albumin, corrected value is near nomal
   range. Check ionized calcium. Will give calcium gluconate today.
   Patient to go to rehab facility today if BP stable for next few hours.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2199-10-13**] 07:40 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 30 minutes